US06969776B2
Preparation Example for (CF3)2CFOCOCF(CF3)OCF2CF2CF3
Further, the same operation was repeated once. The total amount of benzene injected was 0.219 g, and the total amount of R-113 injected was 21 ml. Further, nitrogen was supplied for 1.5 hours. The product was quantified by 19F-NMR, whereby the yield of the above identified compound to (CH3)2CHOCOCF(CF3)OCF2CF2CF3, was 48.1%, and the yield of (CF3)2CHOCOCF(CF3)OCF2CF2CF3 to (CH3)2CHOCOCF(CF3)OCF2CF2CF3, was 19.1%.

reactant | (CH3)2CHOCOCF(CF3)OCF2CF2CF3 | C(C)(C)OC(=O)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C(F)(F)F | C9H7F11O3
reactant | (CF3)2CHOCOCF(CF3)OCF2CF2CF3 | C(C(F)(F)F)(C(F)(F)F)OC(=O)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C(F)(F)F | C9HF17O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (CF3)2CFOCOCF(CF3)OCF2CF2CF3 | C(F)(C(F)(F)F)(C(F)(F)F)OC(=O)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C(F)(F)F | C9F18O3
